US07985753B2
1-Methyl-6-methoxy-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 1-Methyl-6-methoxy-3,4-dihydro-isoquinoline is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 1-Methyl-6-methoxy-3,4-dihydro-isoquinoline | CC1=NCCC2=CC(=CC=C12)OC | C11H13NO
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-Methyl-6-methoxy-1,2,3,4-tetrahydro-isoquinoline | CC1NCCC2=CC(=CC=C12)OC | C11H15NO
